US03998829
3α-Hydroxy-21-iodoacetoxymethyl-5α-pregnane-11,20-dione
21-Chloroacetoxymethyl-3α-hydroxy-5α-pregnane-11,20-dione (400 mg.) in acetone (40 ml) was treated with sodium iodide (420 mg.) and the mixture was refluxed for 40 mins. The filtered solution was evaporated to a yellow solid which was partitioned between water and ether/ethyl acetate 1:1. The organic layer was washed with water, dried over sodium sulphate and evaporated to give title compound (500 mg) as a yellow foam.

reactant | 21-Chloroacetoxymethyl-3α-hydroxy-5α-pregnane-11,20-dione | 400 mg | ClCC(=O)OCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C24H35ClO5
reactant | sodium iodide | 420 mg | [I-].[Na+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 3α-Hydroxy-21-iodoacetoxymethyl-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCOC(CI)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H35IO5
